US06689806B1
6-(3-Methoxyphenyl)-1,3-dihydroindol-2-one was condensed with salicylaldehyde using method B to give 3-(2-hydroxybenzylidene)-6-(3-methoxyphenyl)-1,3-dihydro-indol-2-one as a yellow solid which was reducted using method E to give 0.03 g (66%) of 3-(2-hydroxy-benzyl)-6-(3-methoxy-phenyl)-1,3-dihydro-indol-2-one as a white solid.

reactant | 6-(3-Methoxyphenyl)-1,3-dihydroindol-2-one | COC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
product | 3-(2-hydroxybenzylidene)-6-(3-methoxyphenyl)-1,3-dihydro-indol-2-one | OC1=C(C=C2C(NC3=CC(=CC=C23)C2=CC(=CC=C2)OC)=O)C=CC=C1 | C22H17NO3
